US06498185B1
To a suspension of N-(4-chlorophenyl)-2-[((3-chloro-5-(thiomorpholin-4-yl)methylthiophen-2-yl)carbonyl)amino]-5-chlorobenzamide (0.1 g, 0.2 mmol) in methanol (20 mL) at 0° C. was added a solution of potassium peroxymonosulfate (0.13 g, 0.2 mmol) in water (5 mL). After 5 minutes, the reaction was quenched by addition of aqueous 5% sodium bisulfite solution. The mixture was extracted with methylene chloride/methanol, and the organic phase dried over Na2SO4 and concentrated in vacuo. Purification by flash chromatography on silica gel afforded 0.064 g (62% yield) of N-(4-chlorophenyl)-2-[((3-chloro-5-(1-(oxo)thiomorpholin-4-yl)methylthiophen-2-yl)carbonyl)amino]-5-chlorobenzamide, as a pale yellow powder; NMR (DMSO-d6/TFA) 11.2 (s, 1), 10.7 (s, 1), 8.3 (d, 1), 7.9 (s, 1), 7.7 (m, 2), 7.6 (m, 1), 7.4 (m, 3) 4.7 (s, 2), 3.7 (m, 2), 3.5 (m. 2), 2.9 (br s, 4) ppm.

reactant | N-(4-chlorophenyl)-2-[((3-chloro-5-(thiomorpholin-4-yl)methylthiophen-2-yl)carbonyl)amino]-5-chlorobenzamide | 0.2 mmol, 0.1 g | ClC1=CC=C(C=C1)NC(C1=C(C=CC(=C1)Cl)NC(=O)C=1SC(=CC1Cl)CN1CCSCC1)=O | C23H20Cl3N3O2S2
reactant | potassium peroxymonosulfate | 0.2 mmol, 0.13 g | S(=O)(=O)(O[O-])[O-].[K+].[K+]
solvent | methanol | 20 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
product | N-(4-chlorophenyl)-2-[((3-chloro-5-(1-(oxo)thiomorpholin-4-yl)methylthiophen-2-yl)carbonyl)amino]-5-chlorobenzamide | 0.064 g, 62% yield | ClC1=CC=C(C=C1)NC(C1=C(C=CC(=C1)Cl)NC(=O)C=1SC(=CC1Cl)CN1CCS(CC1)=O)=O | C23H20Cl3N3O3S2
